US05968819
A mixture of 2-chloro-8-methoxy-4-phenylamino-quinazoline (1.20 g) and 4-methoxy-aniline (0.66 g) is heated for 3 min to produce a melt which is dissolved in isopropanol (15 ml). 4N HCl in dioxane (0.2 ml) is added. Crystallization from isopropanol and diethylether yields 8-methoxy-2-(4-methoxy-phenylamino)-4-phenylamino-quinazoline dihydrochloride, m.p. 287-289° C., FAB-MS: (M+H)+ =373. Analytical data: C22H20N4O2 +HCl.

reactant | 2-chloro-8-methoxy-4-phenylamino-quinazoline | 1.20 g | ClC1=NC2=C(C=CC=C2C(=N1)NC1=CC=CC=C1)OC | C15H12ClN3O
reactant | 4-methoxy-aniline | 0.66 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | HCl | 4N | Cl | ClH
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 8-methoxy-2-(4-methoxy-phenylamino)-4-phenylamino-quinazoline dihydrochloride | Cl.Cl.COC=1C=CC=C2C(=NC(=NC12)NC1=CC=C(C=C1)OC)NC1=CC=CC=C1 | InChI=1S/C22H20N4O2.2ClH/c1-27-17-13-11-16(12-14-17)24-22-25-20-18(9-6-10-19(20)28-2)21(26-22)23-15-7-4-3-5-8-15;;/h3-14H,1-2H3,(H2,23,24,25,26);2*1H
